VVDD POS GND 5
RR1 POS N1 600
CC1 N1 GND 0.4p
RR2 N1 N2 40
CC2 N2 GND 0.6p
RR3 N2 N3 80
CC3 N3 GND 0.5p
RR4 N3 N4 100
CC4 N4 GND 0.6p

.debug 0
.pz V(N4) V(POS)
.option pzorder=4

